US03939166
4-Chloro-7-nitro-2,5-bis(trifluoromethyl)benzimidazole is reacted with the sodium salt of 2-cyclopentylethanol to obtain 4-(2-cyclopentylethoxy) -7-nitro-2,5-bis(trifluoromethyl)benzimidazole, m.w., 397.3.

reactant | 4-Chloro-7-nitro-2,5-bis(trifluoromethyl)benzimidazole | ClC1=C(C=C(C=2N=C(NC21)C(F)(F)F)[N+](=O)[O-])C(F)(F)F | C9H2ClF6N3O2
reactant | sodium | [Na] | Na
reactant | 2-cyclopentylethanol | C1(CCCC1)CCO | C7H14O
product | 4-(2-cyclopentylethoxy) -7-nitro-2,5-bis(trifluoromethyl)benzimidazole | C1(CCCC1)CCOC1=C(C=C(C=2N=C(NC21)C(F)(F)F)[N+](=O)[O-])C(F)(F)F | C16H15F6N3O3
